US09328096B2
Methyl 5-bromo-2-chloro-4-hydroxybenzoate
A solution of methyl 2-chloro-4-hydroxybenzoate (5.0 g, 26.8 mmol) in MeCN (100 mL) was cooled to −30° C. Triflic acid (2.60 mL, 29.48 mmol) was added followed by N-bromosuccinimide (5.25 g, 29.48 mmol) and the reaction was warmed to room temperature and stirred for 1.5 hours. The reaction was quenched by the addition of saturated aqueous Na2CO3 solution (50 mL). The solution was extracted with EtOAc (2×100 mL), the combined organic layers were combined, dried over magnesium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 20-40% EtOAc in heptanes to afford the title compound as a white solid (2.60 g, 37%).

reactant | methyl 2-chloro-4-hydroxybenzoate | 26.8 mmol, 5.0 g | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
reactant | Triflic acid | 29.48 mmol, 2.60 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | N-bromosuccinimide | 29.48 mmol, 5.25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | 100 mL | CC#N | C2H3N
product | Methyl 5-bromo-2-chloro-4-hydroxybenzoate | 2.60 g, 37% | BrC=1C(=CC(=C(C(=O)OC)C1)Cl)O | C8H6BrClO3
